US04510136
Preparation of (1,1'-Biphenyl-4-yl)hydroxy(methyl)(1H-1,2,4-triazol-1-ylmethyl)silane
A mixture of 3.0 g (8.9 mmol) of (1,1'-biphenyl-4-yl)methyl(2-propoxy)(1H-1,2,4-triazol-1-ylmethyl)silane, 3 ml of concentrated hydrochloric acid, 10 ml of water, and 10 ml of tetrahydrofuran was stirred at room temperature overnight. The resulting solution was diluted with ether, washed with saturated aqueous sodium bicarbonate, water, and brine, dried over magnesium sulfate, and evaporated to leave 2.3 g of viscous oil. Chromatography over silica gel, eluting with hexane followed by ether, provided 1.1 g (42%) of the title compound as a viscous oil that solidified on standing: m.p. 97°-99°; nmr (CDCl3) 0.5 (3H, s), 3.9 (2H, s), 5.2 (1H, broad s), 7.3-7.8 (9H, m), 7.9 (1H, s), 8.0 (1H, s).

reactant | (1,1'-biphenyl-4-yl)methyl(2-propoxy)(1H-1,2,4-triazol-1-ylmethyl)silane | 8.9 mmol, 3.0 g | C1(=CC=C(C=C1)[Si](CN1N=CN=C1)(OC(C)C)C)C1=CC=CC=C1 | C19H23N3OSi
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | water | 10 ml | O | H2O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (1,1'-Biphenyl-4-yl)hydroxy(methyl)(1H-1,2,4-triazol-1-ylmethyl)silane | 2.3 g | C1(=CC=C(C=C1)[Si](CN1N=CN=C1)(C)O)C1=CC=CC=C1 | C16H17N3OSi
